US07700599B2
1,1-Dimethylethyl (2S)-4-[(2-chloro-4-nitrophenyl)methyl]-2-methyl-1-piperazinecarboxylate (D103)
A mixture of crude 1-(bromomethyl)-2-chloro-4-nitrobenzene (D102) (0.391 g), 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate hydrochloride (0.407 g, 1.72 mmol) and Hunig's base (0.625 mL, 3.59 mmol) in dry DMF (3 mL) was stirred at room temperature for 10 minutes. The reaction mixture was concentrated to give an orange oil which was dissolved in DCM and washed with water (33 2) and brine, then dried and concentrated to give an orange oil. Purification by column chromatography eluting with 0-30% EtOAc/pentane gave the title compound as a yellow oil (0.199 g). δH (CDCl3, 400 MHz) 8.24 (1H, d), 8.12 (1H, dd), 7.77 (1H, d), 4.24 (1H, br.s), 3.85 (1H, d), 3.63 (2H, s), 3.14 (1H, td), 2.76 (1H, m), 2.59 (1H, m), 2.33 (1H, dd), 2.18 (1H, m), 1.47 (9H, s), 1.28 (3H, d). MS (ES): MH+ 370/372,

reactant | 1-(bromomethyl)-2-chloro-4-nitrobenzene | 0.391 g | BrCC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C7H5BrClNO2
reactant | 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate hydrochloride | 1.72 mmol, 0.407 g | Cl.C[C@@H]1N(CCNC1)C(=O)OC(C)(C)C
reactant | Hunig's base | 3.59 mmol, 0.625 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethylethyl (2S)-4-[(2-chloro-4-nitrophenyl)methyl]-2-methyl-1-piperazinecarboxylate | 0.199 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C17H24ClN3O4
